US04966905
(E)-2,2-Dimethyl-5-[2-[4-(methylthio)phenyl]ethenyl]-3(2H)-furanone
To a solution of dry diisopropylamine (5.0 mL, 35.7 mM) in dry tetrahydrofuran (150 mL) at -78° C., was added dropwise a 2.3N solution of n-butyllithium in hexane (15.5 mL, 35.7 mM). After the reaction solution was stirred for 15 minutes, a solution of 2,2,5-trimethyl-3(2H)-furanone (30 g, 23.8 mM) in tetrahydrofuran (25 mL) was added dropwise. Hexamethylphosphoramide (6.4 mL, 34.7 mM) was then added dropwise after 30 minutes. Finally, p-methylthiobenzaldehyde (43 g, 28.5 mM) in tetrahydrofuran (25 mL) was added in one portion. The reaction solution was stirred 15 minutes when trifluoroacetic anhydride (10.5 mL, 75 mM) was added in one portion. Again, the reaction solution was stirred 15 minutes when triethylamine (5.9 mL, 48 mM) was added and was allowed to warm to room temperature. Then the reaction mixture was partitioned between saturated aqueous sodium chloride (50 mL) and diethyl ether (50 mL). The organic layer was separated and washed with saturated aqueous sodium bicarbonate (2×25 mL) and saturated aqueous sodium chloride (25 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure to give an amber liquid. The crude product was purified by chromatography (silica gel, pet. ether-ethyl acetate) to afford yellow crystals (3.0 g, 48% yield), m.p. 98°-99.5° C.

reactant | diisopropylamine | 35.7 mM, 5.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,2,5-trimethyl-3(2H)-furanone | 23.8 mM, 30 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | p-methylthiobenzaldehyde | 28.5 mM, 43 g | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | trifluoroacetic anhydride | 75 mM, 10.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | hexane | 35.7 mM, 15.5 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 48 mM, 5.9 mL | C(C)N(CC)CC | C6H15N
solvent | Hexamethylphosphoramide | 34.7 mM, 6.4 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | (E)-2,2-Dimethyl-5-[2-[4-(methylthio)phenyl]ethenyl]-3(2H)-furanone | 3.0 g, 48% yield | CC1(OC(=CC1=O)\C=C\C1=CC=C(C=C1)SC)C | C15H16O2S
